* Netlist snapshot for record 20260909-055539-e2bb637 -- exactly what was simulated.
* DUT: placeholder-v1 (placeholder), sim/dut/placeholder_comparator.spice
* Testbench: sim/comparator-kickback/testbench/tb_kickback.spice
* ---------------- DUT NETLIST ----------------
* ============================================================================
* PLACEHOLDER DUT -- NOT A DESIGN, NOT A TOPOLOGY PROPOSAL
* ============================================================================
*
* This netlist exists for exactly one reason: so that sim/'s harness, its
* corner grid, its evidence-record format and its four experiment benches can
* be proven to run end to end BEFORE this repo's comparator topology has been
* decided. That decision is spec/porting-plan.md next step 1 and is a separate
* decision record; it is explicitly out of scope for the harness work.
*
* Consequences, stated so nobody has to infer them:
*
*   - NOTHING HERE IS SIZED. The devices are round numbers picked by
*     inspection to give a converging operating point at 3.3 V. No gm/ID
*     study, no noise budget, no offset budget went into any of them.
*   - NO NUMBER MEASURED AGAINST THIS DUT SUBSTANTIATES A SPEC ROW.
*     sim/dut.json declares provenance "placeholder", which makes every
*     record the harness writes against it carry a banner saying so.
*   - THIS IS NOT gf180-sar-adc's COMPARATOR. spec/porting-plan.md ports that
*     repo's testbench METHODOLOGY and forbids porting its topology, sizing
*     or numbers. The front end below is a textbook resistively-loaded
*     differential pair at deliberately different, deliberately unconsidered
*     sizing; the decision stage below is BEHAVIOURAL and therefore commits
*     to no transistor topology at all.
*
* When design/comparator.sch (or its netlist) lands, point sim/dut.json at it
* and re-run. Nothing else in sim/ changes.
*
* Interface contract: sim/dut/README.md.
* Parameters supplied by the harness: dut_ib, dut_vcm, vdd_val, vdd_nom,
* temp_c (sim/harness/runner.py compose_deck).
* ============================================================================


* ---------------------------------------------------------------------------
* comparator_dut_analog -- the DC-resolvable front end.
*
* Exposed as its own subckt because two of the four experiments (offset-MC
* and preamp-noise) are small-signal analyses about a DC operating point.
* See sim/dut/README.md "Why there are two subckts".
*
* Simple NMOS-input pair, 1:1 tail mirror, unsalicided p+ poly loads.
* w/l are round numbers. Do not read intent into them.
* ---------------------------------------------------------------------------
.subckt comparator_dut_analog vinp vinn ibias aop aon vdd vss
* 1:1 NMOS current mirror; ibias is forced into the diode branch.
Xmb  ibias ibias vss vss nfet_03v3 w=10u l=1u
Xmt  atail ibias vss vss nfet_03v3 w=10u l=1u
* Input pair. The device whose gate is vinp drives the INVERTING node aon,
* so v(aop) - v(aon) = +A_v * (v(vinp) - v(vinn)).
Xmip aon vinp atail vss nfet_03v3 w=20u l=1u
Xmin aop vinn atail vss nfet_03v3 w=20u l=1u
* Unsalicided 1 kohm/sq p+ poly loads, 100 squares = 100 kohm nominal.
* Third terminal is the substrate/body contact. `ppolyf_u_1k` is chosen
* because it is the flavour klayout-tools' gf180mcu extraction deck can
* actually select today (2AMLogic/klayout-tools#595, cited in
* spec/porting-plan.md) -- so a placeholder that is later replaced by a real
* design does not hand the layout work an already-known dead end.
Xrlp vdd aop vss ppolyf_u_1k r_width=1u r_length=100u
Xrln vdd aon vss ppolyf_u_1k r_width=1u r_length=100u
.ends comparator_dut_analog


* ---------------------------------------------------------------------------
* comparator_dut_latch -- BEHAVIOURAL regenerative decision stage.
*
* Deliberately behavioural. A transistor-level latch here would be a topology
* choice, and the topology decision is out of scope. What this models is only
* the *observable contract* every latched comparator has, so that the
* regeneration and kickback benches have something real to measure:
*
*   clk low   -> reset: both regeneration nodes pulled to mid-rail
*   clk high  -> evaluate: dv/dt = dv/tau + (input injection), i.e. the
*                exponential regeneration law t = t0 + tau*ln(V/(A*Vin))
*                the regeneration bench extracts tau from
*   output    -> held between decisions, flipping only once the regeneration
*                nodes have separated past an absolute threshold (an SR
*                latch's behaviour, not a differential zero-crossing)
*
* c_fb IS THE PART THAT MATTERS FOR KICKBACK and it is an explicit, declared
* stand-in: a real latch's input pair couples its rail-to-rail regeneration
* nodes back to its inputs through C_gd. Modelling that as an explicit 5 fF
* per side means the kickback bench measures a real path (regeneration node
* -> front-end output -> input-pair C_gd -> input node) instead of reporting
* a fictitious zero. The VALUE is a placeholder like everything else here.
* ---------------------------------------------------------------------------
.subckt comparator_dut_latch inp inn clk dout doutb vdd vss
.param g_reg=5m
.param c_reg=500f
.param g_in=5m
.param v_lim=0.4
.param c_fb=5f
.param g_clamp=1
.param r_hold=200
.param c_hold=100f
.param v_th=0.8
.param v_sharp=0.1
.param r_rst=100
* Clock enable, smoothed so the B-source expressions stay differentiable.
Ben  ken 0 v = '0.5*(1+tanh((v(clk)-0.5*v(vdd,vss))/0.05))'
Cqp  qp 0 {c_reg}
Cqn  qn 0 {c_reg}
* Positive feedback (tanh-limited) plus input injection. tau = c_reg/(2*g_reg).
Bqp  0 qp i = 'v(ken)*( g_reg*v_lim*tanh((v(qp)-v(qn))/v_lim) + g_in*(v(inp)-v(inn)) )'
Bqn  0 qn i = '-v(ken)*( g_reg*v_lim*tanh((v(qp)-v(qn))/v_lim) + g_in*(v(inp)-v(inn)) )'
* Reset to mid-rail while clk is low.
Brp  0 qp i = '(1-v(ken))*(0.5*v(vdd,vss)-v(qp))/r_rst'
Brn  0 qn i = '(1-v(ken))*(0.5*v(vdd,vss)-v(qn))/r_rst'
* Rail clamps -- the regeneration nodes are supply-bounded, like real ones.
Bcp  qp 0 i = 'g_clamp*(max(v(qp)-v(vdd),0)+min(v(qp)-v(vss),0))'
Bcn  qn 0 i = 'g_clamp*(max(v(qn)-v(vdd),0)+min(v(qn)-v(vss),0))'
* Latch input pair C_gd, explicit. This is the kickback path (see header).
Ckp  qp inp {c_fb}
Ckn  qn inn {c_fb}
* Output hold. Tracks the decision only once |v(qp)-v(qn)| passes v_th, so
* the output delay is a real function of overdrive rather than of the moment
* the differential crosses zero. Rh keeps the node non-floating for `op`.
Ch   h 0 {c_hold}
Rh   h vss 1G
Bh   0 h i = 'v(ken)*0.5*(1+tanh((abs(v(qp)-v(qn))-v_th)/v_sharp))*(v(vdd,vss)*0.5*(1+tanh((v(qp)-v(qn))/v_sharp))-v(h))/r_hold'
Bdo  dout  0 v = 'min(max(v(h),v(vss)),v(vdd))'
Bdob doutb 0 v = 'v(vdd)-min(max(v(h),v(vss)),v(vdd))'
.ends comparator_dut_latch


* ---------------------------------------------------------------------------
* comparator_dut -- the full clocked comparator the transient benches drive.
* ---------------------------------------------------------------------------
.subckt comparator_dut vinp vinn clk ibias dout doutb vdd vss
Xa vinp vinn ibias aop aon vdd vss comparator_dut_analog
Xl aop aon clk dout doutb vdd vss comparator_dut_latch
.ends comparator_dut

* ---------------- TESTBENCH FRAGMENT ----------------
* tb_kickback -- charge kicked back into the comparator's own input nodes by
* a decision, measured two ways: at the source impedance README.md's kickback
* row is stated at, and against a floating high-impedance source that cannot
* restore the injected charge.
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the DUT netlist, the .control block and .end
* (sim/harness/README.md). Parameters from the harness: vdd_val, vdd_nom,
* temp_c, dut_ib, dut_vcm.
*
* METHODOLOGY PORTED FROM gf180-sar-adc/sim/comparator-kickback/ -- see this
* experiment's README.md for the full transfer/non-transfer list.
*
* THE ONE THING THAT MAKES THIS MEASUREMENT REAL: THE SOURCE IMPEDANCE.
* Biasing the inputs from ideal voltage sources restores the injected charge
* instantly and reports ~0 kickback no matter how bad it is; that is the
* standard way this measurement gets faked. Two independent drives are used
* here instead, and BOTH are in the record:
*
*   A -- 1 kohm series source impedance with 100 fF of input-node
*        capacitance. This is the condition README.md's kickback row is
*        stated at ("<= 5 mV disturbance into a 1 kohm source impedance at
*        the input nodes, single decision edge"), so it is what the row is
*        eventually scored against. It reports the PEAK transient
*        disturbance, because at 100 ps of RC the node recovers long before
*        the next decision.
*
*   B/C -- a 1 pF input node fed through 1 Gohm, i.e. RC = 1 ms against a
*        ~30 ns decision cycle: the bias network sets the operating point
*        and then does nothing. This is the sibling repo's floating-node
*        methodology and it reports the RESIDUAL charge left on the node
*        after the decision -- the component that does not recover at all.
*        B sits at a 1 mV residue and C at 100 mV, so their difference is
*        the SIGNAL-DEPENDENT part of the kickback, which is the only part
*        that cannot be absorbed as an offset.
*
* THE RESIDUAL PROBES ARE REFERENCED NEAR ZERO VOLTS, DELIBERATELY. ngspice's
* `meas` returns roughly six significant digits, so differencing two ~1.2 V
* node levels quantizes the answer at ~1 microvolt -- and the residual
* kickback of a well-isolated input stage is smaller than that. The sibling
* repo's own kickback record documents this exact floor, and states that
* buying the extra decades requires measuring a quantity that is ALREADY
* small rather than tightening tolerances. That is what the Bbd/Bcd/Bbc
* behavioural sources below do: they compute the differential (or
* common-mode-referred) node voltage as a signal near 0 V, so `meas` returns
* six digits OF THE SMALL QUANTITY and the floor drops to ~1 nV. Both the
* raw-node-difference and the referenced forms are reported so the
* improvement is visible in the record rather than asserted here.
*
* MISMATCH IS OFF (PDK default sw_stat_mismatch = 0). Kickback and offset are
* separable effects budgeted separately; a mismatched instance would add its
* own offset to the measured input displacement and make neither
* attributable.

.param rsrc=1k
.param cin=100f
.param rfloat=1G
.param cfloat=1p
.param dv_small=1m
.param dv_big=100m
.param t_pre=29n
.param t_post=55n

vsup vdd 0 dc {vdd_val}
vcm  cm 0 dc {dut_vcm}

* One strobe, late enough that every node has settled from the operating
* point before the decision happens.
vclk clk 0 pulse(0 {vdd_val} 30n 100p 100p 10n 30n)

* ---- A: 1 kohm source impedance (README.md's stated condition) --------
vsa  sa 0 dc {dv_small}
Easp asp cm sa 0 0.5
Easn asn cm sa 0 -0.5
Rap  asp apa {rsrc}
Ran  asn ana {rsrc}
Cap  apa 0 {cin}
Can  ana 0 {cin}
iba  vdd ibna dc {dut_ib}
Xa   apa ana clk ibna douta doutba vdd 0 comparator_dut

* ---- B: floating high-Z input, small residue --------------------------
vsb  sb 0 dc {dv_small}
Ebsp bsp cm sb 0 0.5
Ebsn bsn cm sb 0 -0.5
Rbp  bsp bpp {rfloat}
Rbn  bsn bpn {rfloat}
Cbp  bpp 0 {cfloat}
Cbn  bpn 0 {cfloat}
ibb  vdd ibnb dc {dut_ib}
Xb   bpp bpn clk ibnb doutb doutbb vdd 0 comparator_dut

* ---- C: floating high-Z input, large residue --------------------------
vsc  sc 0 dc {dv_big}
Ecsp csp cm sc 0 0.5
Ecsn csn cm sc 0 -0.5
Rcp  csp cpp {rfloat}
Rcn  csn cpn {rfloat}
Ccp  cpp 0 {cfloat}
Ccn  cpn 0 {cfloat}
ibc  vdd ibnc dc {dut_ib}
Xc   cpp cpn clk ibnc doutc doutbc vdd 0 comparator_dut

* ---- near-zero-referenced probes (see header) -------------------------
* ad: instantaneous disturbance of A's + input relative to its own driving
*     source, so the peak is measured against what the node WOULD have been.
Bad ad 0 v = 'v(apa)-v(asp)'
* bd/cd: differential input voltage of the floating instances, a ~1 mV and
*     ~100 mV quantity rather than a ~1.2 V one.
Bbd bd 0 v = 'v(bpp)-v(bpn)'
Bcd cd 0 v = 'v(cpp)-v(cpn)'
* bc: common-mode displacement of the floating instance, referenced to the
*     bias so it too is a small quantity.
Bbc bc 0 v = '(v(bpp)+v(bpn))/2-v(cm)'

* ---- supply-normalized decision probes --------------------------------
Bdan dan 0 v = 'v(douta)/v(vdd)'
Bdbn dbn 0 v = 'v(doutb)/v(vdd)'
Bdcn dcn 0 v = 'v(doutc)/v(vdd)'
